US04889869
(a) 2-(2-thiazolinylthio)-hydrocinnamic acid
A mixture of 250 mg of 2-(2-thiazolinylthio)hydrocinnamic acid ethyl ester, 36 mg of lithium hydroxide monohydrate and 5 ml of THF/water 9:1 is stirred at room temperature for 5 days and then concentrated to dryness by evaporation. The residue is taken up in water, washed with ethyl acetate, adjusted to pH 5 with 0.5N HCl and extracted with ethyl acetate. The extracts are washed with water, dried with sodium sulphate, concentrated by evaporation and chromatographed on silica gel with eluant R. Rf (R)=0.22.

reactant | 2-(2-thiazolinylthio)hydrocinnamic acid ethyl ester | 250 mg | C(C)OC(CCC1=C(C=CC=C1)SC=1SCCN1)=O | C14H17NO2S2
reactant | lithium hydroxide monohydrate | 36 mg | O.[OH-].[Li+]
solvent | THF water | 5 ml | C1CCOC1.O
product | 2-(2-thiazolinylthio)-hydrocinnamic acid | S1C(=NCC1)SC1=C(CCC(=O)O)C=CC=C1 | C12H13NO2S2
